* Wurlitzer 200A Reed-Bar Preamp
* Two-stage direct-coupled NPN CE amplifier (2N5089)
* with series-series emitter feedback and LDR tremolo.
* N=12, M=5 (2 BJTs, 2D each + 1 diode, 1D)

* --- Input coupling: R1 (22K) in series with Cin (0.022uF) ---
R1    in     mid_in  22K
Cin   mid_in base1   0.022U

* --- Base1 bias network ---
R2    vcc   base1  2MEG
R3    base1 0      470K

* --- Protection diode (reverse-biased under normal operation) ---
D1    0     base1  D1N4148

* --- Stage 1: TR-1 (2N5089 NPN common-emitter) ---
Q1    coll1 base1 emit1  Q2N5089
Rc1   vcc   coll1  150K
Re1   emit1 0      33K
Ce1   emit1 fb     4.7U
Cc3   coll1 base1  100P

* --- Stage 2: TR-2 (2N5089 NPN common-emitter) ---
Q2    coll2 coll1 emit2a  Q2N5089
Rc2   vcc   coll2  1.8K
Re2a  emit2a emit2b  270
Ce2   emit2a emit2b  22U
Re2b  emit2b 0    820
Cc4   coll2  coll1  100P

* --- Output ---
R9    coll2 out    6.8K

* --- Global AC negative feedback (series-series / emitter) ---
R10   out   fb     56K

* --- LDR (fixed at 100k for validation) ---
R_ldr fb    0      100k

* --- Supply ---
V1    vcc   0      DC 15

* --- Device models ---
.model Q2N5089 NPN(IS=3.03e-14 BF=500)
.model D1N4148 D(IS=2.52e-9 N=1.752)

.TRAN 1u 50m
.PRINT TRAN V(out) V(in) V(coll1) V(coll2)

.END
